US05912244
(3S,4R)-3,4-Dihydro-4-(2,3-dihydro-2-methyl-3-oxopyridazin-6-yl)oxy-3-hydroxy-6-(2-hydroxyphenyl)sulphonyl-2,2,3-trimethyl-2H-benzo[b]pyran
(3S ,4S)-6-(2-tert-Butyidimethylsilyloxyphenyl)sulphonyl-3,4-dihydro-3,4-epoxy-2,2,3-trimethyl-2H-benzo[b]pyran (0.5 g) (see Preparation 16) and 2,3-dihydro-2-methyl-3-oxo-6-hydroxypyridazine (0.41 g) (see J.Org.Chem., 1971, 36, 3372) were suspended in dry 1,4-dioxane (8 ml), pyridine (0.085 g) was added and the mixture was heated under reflux (a calcium chloride drying tube was attached to the flask) for 20 hours. The solvent was removed under reduced pressure, the residue was stirred with dichloromethane (30 ml) and filtered. The filtrate was evaporated and the residue was chromatographed on silica using 1:1 hexane: ethyl acetate as the eluent to yield a mixture of the required product and the epoxide starting material. This mixture was redissolved in dry 1,4-dioxane (7 ml), 2,3-dihydro-2-methyl-3-oxo-6-hydroxypyridazine (0.2 g) and pyridine (0.08 g) were added and the reaction was heated under reflux for a further 18 hours. The solvent was removed under reduced pressure and the residue was dissolved in 5% methanol/dichloromethane and filtered. The filtrate was evaporated and the residue was chromatographed on silica using 2.5:97.5 methanol: dichioromethane as the eluent to yield (3S,4R)-3,4-dihydro-4-(2,3-dihydro-2-methyl-3-oxopyridazin-6-yl)oxy-3-hydroxy-6-(2-hydroxyphenyl)-sulphonyl-2,2,3-trimethyl-2H-benzo[b]pyran (0.17 g) as a yellow foam. Found: C,54.19; H,4.85; N,5.21. C23H24N2O7S, 0.625 CH2Cl2 requires C,54.06; H,4.73; N,5.34%.

reactant | (3S ,4S)-6-(2-tert-Butyidimethylsilyloxyphenyl)sulphonyl-3,4-dihydro-3,4-epoxy-2,2,3-trimethyl-2H-benzo[b]pyran | 0.5 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC=C1)S(=O)(=O)C1=CC2=C(OC([C@@]3([C@H]2O3)C)(C)C)C=C1 | C24H32O5SSi
reactant | 2,3-dihydro-2-methyl-3-oxo-6-hydroxypyridazine | 0.41 g | CN1N=C(C=CC1=O)O | C5H6N2O2
reactant | pyridine | 0.085 g | N1=CC=CC=C1 | C5H5N
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | (3S,4R)-3,4-Dihydro-4-(2,3-dihydro-2-methyl-3-oxopyridazin-6-yl)oxy-3-hydroxy-6-(2-hydroxyphenyl)sulphonyl-2,2,3-trimethyl-2H-benzo[b]pyran | CN1N=C(C=CC1=O)O[C@@H]1C2=C(OC([C@@]1(C)O)(C)C)C=CC(=C2)S(=O)(=O)C2=C(C=CC=C2)O | C23H24N2O7S
